US05189054
Preparation of 3-[(Phenacyl)ethylamino]-2-carboxy-4,6-dichloroindole
Mix 3-[(phenacyl)ethylamino]-2-carbethoxy-4,6-dichloroindole (600 mg, 1.48 mmol), water (10 mL) and tetrahydrofuran (10 mL). Add lithium hydroxide monohydrate (0.22 g, 5.18 mmol) and stir at room temperature for 24 hours. Heat to reflux for 5 hours then pour into 1N hydrochloric acid (100 mL). Extract into ethyl acetate, dry (MgSO4) and evaporate the solvent in vacuo to give the crude product (0.72 g) as a white solid. Recrystallize (ethyl acetate/hexane) to give the title compound (0.32 g, 57%); mp 254°-6° C.

reactant | 3-[(phenacyl)ethylamino]-2-carbethoxy-4,6-dichloroindole | 1.48 mmol, 600 mg | C(C(=O)C1=CC=CC=C1)CCNC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C21H20Cl2N2O3
reactant | water | 10 mL | O | H2O
reactant | lithium hydroxide monohydrate | 5.18 mmol, 0.22 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-[(Phenacyl)ethylamino]-2-carboxy-4,6-dichloroindole | 0.32 g, 57% | C(C(=O)C1=CC=CC=C1)CCNC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)O | C19H16Cl2N2O3
